US07186729B2
Step 3: 2-(5-{3-[3-(4-Chloro-benzyloxy)-pyrrolidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
To a solution of (R)-3-(4-chloro-benzyloxy)-pyrrolidine (0.88 mmol, 2.0 eq) in acetonitrile:water (4:1) was added potassium carbonate (0.88 mmol, 2.0 eqv) and (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol and the resulting mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, and dried over sodium sulfate. The crude product was purified by Reverse Phase HPLC. 1H-NMR (CDCl3) δ: 1.40 (6H, s), 1.15–1.35 (1H, m), 1.85–2.05 (1H, m), 2.20–2.40 (1H, m), 2.35–2.65 (8H, m), 3.90–4.10 (1H, m), 4.30–4.50 (2H, d), 5.10–5.30 (2H, br, s), 6.05 (1H, t), 6.50 (1H, dd), 7.10–7.50 (4H, m), 7.70 (1H, dd), 8.50 (1H, dd). ESI-MS m/z: 505 (M+1), UV retention time: 1.52 min.

reactant | (R)-3-(4-chloro-benzyloxy)-pyrrolidine | 0.88 mmol, 2.0 eq | ClC1=CC=C(CO[C@H]2CNCC2)C=C1 | C11H14ClNO
reactant | potassium carbonate | 0.88 mmol, 2.0 eqv | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | BrCC\C=C/1\C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 2-(5-{3-[3-(4-Chloro-benzyloxy)-pyrrolidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | ClC1=CC=C(COC2CN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)C=C1 | C30H33ClN2O3
